US04751018
In 100 ml of pyridine was dissolved 18 g of refined 4-hydroxy-α-methylcinnamic acid synthesized in Referential Example 1, 20 g of acetic anhydride was dropped into the solution, and the reaction was carried out at room temperature with stirring for 2 hours. Then, the liquid reaction mixture was dropped in a 1% by weight aqueous solution of hydroxychloric acid, and the precipitated reaction product was recovered by filtration, washed with water, and dried to obtain 20 g of 4-acetoxy-α-methylcinnamic acid.

reactant | 4-hydroxy-α-methylcinnamic acid | 18 g | OC1=CC=C(C=C(C(=O)O)C)C=C1 | C10H10O3
reactant | acetic anhydride | 20 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydroxychloric acid | O[ClH](=O)(=O)O | ClH3O4
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-α-methylcinnamic acid | 20 g | C(C)(=O)OC1=CC=C(C=C(C(=O)O)C)C=C1 | C12H12O4
